US06114325
[2-[[N-[3-(Dibutylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (Compound 40)
Pyridine (0.67 ml) and phenyl chlorocarbonate (0.76 ml) were added to a suspension of [2-(hydroxymethyl)phenyl]-N-octadecylformamide (2.20 g), which was synthesized in Example 1-1, in chloroform (22 ml) while being cooled with ice. After being stirred for 2 hours at room temperature, the reaction mixture, with chloroform added thereto, was washed with 1N hydrochloric acid, saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated. 3-(Dibutylamino)propylamine (1.36 ml) was added to the residue. After being stirred for 3 hours at 70° C., the reaction mixture was purified by silica gel column chromatography (silica gel 100 g, chloroform:methanol=60:1-30:1), thereby yielding 3.11 g of the aimed compound as white solid.

reactant | Pyridine | 0.67 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 0.76 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | [2-(hydroxymethyl)phenyl]-N-octadecylformamide | 2.20 g | OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | C26H45NO2
solvent | chloroform | 22 ml | C(Cl)(Cl)Cl | CHCl3
product | [2-[[N-[3-(Dibutylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 3.11 g | C(CCC)N(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CCCC | C38H69N3O3
